US08026270B2
Ethyl (3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate
To a solution of ethyl {3-chloro-4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]phenyl}acetate (0.60 g, 1.32 mmol) in DMF (6 ml), was added sodium carbonate (0.280 g, 2.65 mmol) followed by 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.460 g, 1.98 mmol). This was stirred at room temperature for 5 hours. Water was added to the reaction mixture and the resulting brown solid was collected by filtration. This was purified by chromatography on silica gel eluting with 5-60% ethylacetate in hexane to give the title compound (0.258 g, 0.48 mmol). LC/MS: Rt=3.85, [MH]+ 536.

reactant | ethyl {3-chloro-4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]phenyl}acetate | 1.32 mmol, 0.60 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)O)C=CC=C3)OCC)=O)CC(=O)OCC | C24H20ClNO6
reactant | sodium carbonate | 2.65 mmol, 0.280 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.98 mmol, 0.460 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | Ethyl (3-chloro-4-{4-(ethyloxy)-1,3-dioxo-9-[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetate | 0.48 mmol, 0.258 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC)=O)CC(=O)OCC | C26H21ClF3NO6
